US08034945B2
(d). 4-(3,4-Diamino-5-bromo-phenyl)-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile
4-(4-Amino-3-bromo-5-nitro-phenyl)-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile (600 mg) was dissolved in THF (150 ml) and cooled to 0° C. Acetic acid (1.3 ml) was added, followed by addition of zinc dust (2 g). The resulting slurry was stirred at 0° C. for 2 h, and then another 4 h at room temperature. The mixture was filtered and diluted with saturated aq. NaHCO3, followed by extraction with ethyl acetate. The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by chromatography on silicagel in heptane/ethyl acetate 3/1→0/1 (v/v) as eluent.

reactant | 4-(4-Amino-3-bromo-5-nitro-phenyl)-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile | 600 mg | NC1=C(C=C(C=C1[N+](=O)[O-])C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N)Br | C20H21BrN4O3
reactant | Acetic acid | 1.3 ml | C(C)(=O)O | C2H4O2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
catalyst | zinc | 2 g | [Zn] | Zn
product | 4-(3,4-Diamino-5-bromo-phenyl)-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile | NC=1C=C(C=C(C1N)Br)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N | C20H23BrN4O
